US09260450B2
Step iii. Thieno[3,2-c]pyridine-2-carboxylic acid methoxy-methyl-amide
A suspension of O,N-dimethylhydroxylamine hydrochloride (2.32 g, 23.8 mmol) in THF (20 mL) was purged with N2 and cooled to −78° C. before adding n-butyllithium (1.6 M in hexanes, 30.0 mL, 48.1 mmol). Removed bath and stirred 15 minutes before replacing the bath and adding a solution of thieno[3,2-c]pyridine-2-carboxylic acid methyl ester (0.92 g, 4.76 mmol) in THF (10 mL). After 45 minutes, saturated NH4Cl was added. The mixture was diluted with EtOAc; washed with water, 1 M HCl, water, 5% NaHCO3, water, and brine; dried over Na2SO4, and evaporated to give 0.54 g (51%) of an oil which solidified upon standing. The product thus obtained was used in the next step without further purification. MS m/z 223 (M+H)+.

reactant | O,N-dimethylhydroxylamine hydrochloride | 23.8 mmol, 2.32 g | Cl.CONC
reactant | n-butyllithium | 48.1 mmol, 1.6 M, 30.0 mL | C(CCC)[Li]
reactant | thieno[3,2-c]pyridine-2-carboxylic acid methyl ester | 4.76 mmol, 0.92 g | COC(=O)C1=CC=2C=NC=CC2S1 | C9H7NO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Thieno[3,2-c]pyridine-2-carboxylic acid methoxy-methyl-amide | 0.54 g, 51% | CON(C(=O)C1=CC=2C=NC=CC2S1)C | C10H10N2O2S
